US07479502B2
Proceeding as in Reference 14, but substituting 4-methoxyphenylacetic acid (16.6 g, 0.1 mol) and bromine (16.0 g, 0.1 mol), gave 3-bromo-4-methoxyphenylacetic acid (24.24 g, 98%) as a yellow powder.

reactant | 4-methoxyphenylacetic acid | 0.1 mol, 16.6 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | bromine | 0.1 mol, 16.0 g | BrBr | Br2
product | 3-bromo-4-methoxyphenylacetic acid | 24.24 g, 98% | BrC=1C=C(C=CC1OC)CC(=O)O | C9H9BrO3
